US07842688B2
d) Benzyl 4-(4-methoxycarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 5.25 g of benzyl 3-hydroxy-4-(4-methoxycarbonylphenyl)piperidine-1-carboxylate and 0.572 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as a yellowish oil. Rf=0.28 (2:1 EtOAc-heptane). Rt=5.06.

reactant | benzyl 3-hydroxy-4-(4-methoxycarbonylphenyl)piperidine-1-carboxylate | 5.25 g | OC1CN(CCC1C1=CC=C(C=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C21H23NO5
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 0.572 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16ClNO3
product | Benzyl 4-(4-methoxycarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | COC(=O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C34H38N2O8
